### PR TITLE
Prove setP_invs' and sp_corres

### PR DESCRIPTION
**Pull request by ryybrr**
A couple of changes to the abstract and Haskell specs + proofs for `setP_invs'` and `sp_corres`

### CODE REVIEW

File: proof/refine/ARM/Tcb_R.thy [hunk 1]
```diff
@@ -794,49 +796,541 @@ lemma threadSet_valid_objs_tcbPriority_update:
...
+   apply wpsimp
+  apply (subst tcb_ep_find_index.simps)
+  apply (subst tcbEPFindIndex.simps)
   apply (rule corres_guard_imp)
-    apply (rule sp_corres2)
-   apply (clarsimp simp: valid_sched_def valid_sched_action_def)
-  apply (clarsimp simp: invs'_def valid_state'_def sch_act_wf_weak)
+    apply (rule_tac r'="(=)" in corres_split)
+       apply (rule_tac r'="(=)" in corres_split)
+          apply (rule corres_if)
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:1039]: suggestion: when clarsimp immediately solves the next goal, I like to move it to the previous command with a comma. E.g. `apply (rule foo, clarsimp)` I think it makes the proofs easier to read.

**Review by MitchellBuckley — APPROVED** [review]

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -769,16 +769,18 @@ lemma tcbSchedDequeue_ct_in_state'[wp]:
...
+lemma valid_tcb'_tcbPriority_update:
+  "\<lbrakk> valid_tcb' tcb s; f (tcbPriority tcb) \<le> maxPriority \<rbrakk>
+     \<Longrightarrow> valid_tcb' (tcbPriority_update f tcb) s"
   apply (simp add: valid_tcb'_def tcb_cte_cases_def)
   done
 
 lemma threadSet_valid_objs_tcbPriority_update:
   "\<lbrace>valid_objs' and (\<lambda>_. x \<le> maxPriority)\<rbrace>
-     threadSet (tcbPriority_update (\<lambda>_. x)) t
+   threadSetPriority t x
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:780]: Could you use a name other than `x` here?

File: proof/refine/ARM/Tcb_R.thy [hunk 3]
```diff
@@ -794,49 +796,541 @@ lemma threadSet_valid_objs_tcbPriority_update:
...
+       apply (fastforce dest: in_set_dropD)
+      apply (fastforce dest: in_set_takeD)
+     apply (clarsimp simp: Int_Un_distrib set_take_disj_set_drop_if_distinct)
+     apply (rule disjoint_subset_both[OF set_take_subset set_drop_subset])
+     apply (simp add: Int_commute)
+    apply (fastforce dest: in_set_takeD)
+   apply (clarsimp simp: Int_Un_distrib set_take_disj_set_drop_if_distinct)
+   apply (fastforce dest: in_set_takeD in_set_dropD)
+  apply (clarsimp split: option.split)
+  apply (case_tac ys; clarsimp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:845]: rename_tac on this green variable?

File: proof/refine/ARM/Tcb_R.thy [hunk 4]
```diff
@@ -794,49 +796,541 @@ lemma threadSet_valid_objs_tcbPriority_update:
...
+  done
+
+lemma reorderNtfn_invs':
+  "\<lbrace>invs' and st_tcb_at' (\<lambda>st. ntfnBlocked st = Some ntfnPtr) tptr\<rbrace>
+   reorderNtfn ntfnPtr tptr
+   \<lbrace>\<lambda>rv. invs'\<rbrace>"
+  apply (simp only: reorderNtfn_def)
+  apply (subst bind_assoc[symmetric, where m="tcbEPDequeue tptr _"])
+  apply (rule hoare_seq_ext | simp only: K_bind_def)+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:854]: I think I've seen you use this `(rule hoare_seq_ext | simp something)+` pattern before. I'm curious: is this much different from just saying `wpsimp` to begin with? Do you see much benefit using this?

File: proof/refine/ARM/Tcb_R.thy [hunk 5]
```diff
@@ -794,49 +796,541 @@ lemma threadSet_valid_objs_tcbPriority_update:
...
+  "\<lbrace>all_invs_but_ct_not_inQ' and st_tcb_at' runnable' t\<rbrace>
+   tcbSchedEnqueue t
+   \<lbrace>\<lambda>_. all_invs_but_ct_not_inQ'\<rbrace>"
+  apply (simp add: invs'_def valid_state'_def)
+  apply (rule hoare_pre)
+   apply (wp tcbSchedEnqueue_ct_not_inQ valid_irq_node_lift irqs_masked_lift hoare_vcg_disj_lift
+             valid_irq_handlers_lift' cur_tcb_lift ct_idle_or_in_cur_domain'_lift2
+             untyped_ranges_zero_lift
+        | simp add: cteCaps_of_def o_def
+        | auto elim!: st_tcb_ex_cap'' valid_objs'_maxDomain valid_objs'_maxPriority
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:969]: Is the `auto` necessary here? I'm not sure whether this counts as using `auto` before the final command of a proof

**Review by michaelmcinerney — APPROVED** [review]
Looks great!

File: proof/refine/ARM/Tcb_R.thy (hunk 5 above)
Comment (corlewis) [reply proof/refine/ARM/Tcb_R.thy:969]: I think we might technically allow it if it's completely unavoidable, but it's definitely not the preferred style.
Out of curiosity, what goes wrong with the standard approach here?
```
apply (wpsimp ...)
apply (auto ...)

**Review by corlewis — APPROVED** [review]

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -4273,22 +4273,43 @@ crunches doIPCTransfer
   for pred_tcb_at''[wp]: "\<lambda>s. P (pred_tcb_at' proj test t s)"
   (wp: setCTE_pred_tcb_at' getCTE_wp mapM_wp' simp: cte_wp_at'_def)
 
+lemma tcbEPFindIndex_wp:
+  "\<lbrace>\<lambda>s. (\<forall>i j. 0 \<le> i \<and> i \<le> Suc sz \<longrightarrow>
+               (\<forall>tcb tcba. ko_at' tcb tptr s \<and> ko_at' tcba (queue ! j) s \<longrightarrow>
+                           (Suc j = i \<longrightarrow> tcbPriority tcba \<ge> tcbPriority tcb) \<longrightarrow>
+                           (i < j \<and> j \<le> sz \<longrightarrow> tcbPriority tcba < tcbPriority tcb) \<longrightarrow> Q i s))\<rbrace>
+   tcbEPFindIndex tptr queue sz \<lbrace>Q\<rbrace>"
```
[the remark this answers is not in the document]
Comment (ryybrr) [reply proof/refine/ARM/Ipc_R.thy:4281]: It looks a little odd to have the postcondition on its own line, so I'd prefer to keep it this way. I've also seen this indentation style used for other rules with a single character in the precondition/postcondition, so it's at least consistent with those.

File: proof/refine/ARM/Tcb_R.thy (hunk 4 above)
Comment (ryybrr) [reply proof/refine/ARM/Tcb_R.thy:854]: `tcbEPDequeueAppend_valid_ntfn'_rv` applies over two statements. If I were to use `wp`, the instance of `bind_assoc` would be undone since the splitting takes priority over rule applications.

File: proof/refine/ARM/Tcb_R.thy (hunk 5 above)
Comment (ryybrr) [reply proof/refine/ARM/Tcb_R.thy:969]: This is actually the same proof as `tcbSchedEnqueue_invs'` in `Schedule_R`, I just copied it.

File: spec/haskell/src/SEL4/Kernel/Thread.lhs [hunk 7]
```diff
@@ -526,28 +526,14 @@ The following function is used to alter the priority of a thread.
 >     case ts of
 >          Running -> threadSetPriority_onRunning tptr prio
 >          Restart -> threadSetPriority_onRunning tptr prio
->          BlockedOnSend ep _ _ _ _ -> threadSetPriority_onEp tptr prio ep
```
Comment (mktnk3) [inline spec/haskell/src/SEL4/Kernel/Thread.lhs:529]: Has anyone mention that this change might make `threadSetPriority_onEp` unused? Has it been removed?

**Review by mktnk3 — APPROVED** [review]
Great work! Thanks a lot for catching these subtle spec issues.
